US06172057B2
2-(4-Fluoro-benzenesulfonyl)-2-pyridin-3-ylmethyl-dec-4-ynoic acid hydroxyamide was prepared according to the method as outlined in Example 1. Starting from 2-(4-fluoro-benzenesulfonyl)-2-pyridin-3-ylmethyl-dec-4-ynoic acid (0.67 g, 1.62 mmol) and hydroxylamine hydrochloride (1.39 g, 20 mmol), 0.22 g of the product was isolated. Yield 29%; white solid; mp 180-182° C.; MS: 433.2 (M+H)+; 1H NMR (300 MHz, DMSO-d6) δ 0.84 (t, J=6.8 Hz, 3H), 1.20-1.40 (m, 6H), 1.90-2.05 (m, 2H), 2.75 (d, J=19.9 Hz, 1H), 2.94 (d, J=19.9 Hz, 1H), 3.54 (d, J=13.7 Hz, 1H), 3.75 (d, J=13.7 Hz, 1H), 7.40-7.60(m, 2H), 7.70-8.00 (m, 3H), 8.30-8.40 (m, 1H), 8.70-8.80 (m, 2H), 11.1 (brs, 1H); IR (KBr, cm−1): 3154 m, 3105 s, 3067 m, 2957 s, 2933 s, 2873 m, 1690 s, 1631 m.

reactant | 2-(4-fluoro-benzenesulfonyl)-2-pyridin-3-ylmethyl-dec-4-ynoic acid | 1.62 mmol, 0.67 g | FC1=CC=C(C=C1)S(=O)(=O)C(C(=O)O)(CC#CCCCCC)CC=1C=NC=CC1 | C22H24FNO4S
reactant | hydroxylamine hydrochloride | 20 mmol, 1.39 g | Cl.NO
product | 2-(4-Fluoro-benzenesulfonyl)-2-pyridin-3-ylmethyl-dec-4-ynoic acid hydroxyamide | Yield 29% | ONC(C(CC#CCCCCC)(CC=1C=NC=CC1)S(=O)(=O)C1=CC=C(C=C1)F)=O | C22H25FN2O4S
